US05858995
A mixture of 3-chloromethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan (20 mg) and potassium carbonate (7.5 mg) in methanol was refluxed for 1 hour. The mixture was cooled and poured into water. The separated oil was extracted with ethyl acetate and the extract was washed with water, dried over sodium sulfate and evaporated in vacuo. The residue was purified by preparative TLC to give 7-(2,6-dichlorobenzoylamino)-2,3-dihydro-2-methoxy-2-methyl-3-methylenebenzo[b]furan (5 mg).

reactant | 3-chloromethyl-7-(2,6-dichlorobenzoylamino)-2-methylbenzo[b]furan | 20 mg | ClCC=1C2=C(OC1C)C(=CC=C2)NC(C2=C(C=CC=C2Cl)Cl)=O | C17H12Cl3NO2
reactant | potassium carbonate | 7.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 7-(2,6-dichlorobenzoylamino)-2,3-dihydro-2-methoxy-2-methyl-3-methylenebenzo[b]furan | 5 mg | ClC1=C(C(=O)NC2=CC=CC3=C2OC(C3=C)(C)OC)C(=CC=C1)Cl | C18H15Cl2NO3
